### PR TITLE
rename push lemmas for `List.length` to match convention

### PR DESCRIPTION
**Pull request by andres-erbsen**
For example, `app_length`  became `length_app`.

- [x] Added **changelog**.

Cc @Villetaneuse @JasonGross

### CODE REVIEW

**Comment by proux01** [comment]
More uniformity is certainly welcome but is the "convention" documented somewhere? What are "push lemmas"? (I'd probably call them morphism lemmas looking at a few examples)

**Comment by Villetaneuse** [comment]
I think these names are better. While we're at it, we could also change S to succ and O (oh) to zero for consistency with `([PZN]|)Arith`.

**Comment by andres-erbsen** [comment]
I am not aware of any documentation of conventions in the standard library, but this one is followed almost always when applicable throughout list and arithmetic theory, except for length and a couple of one-off oddities. The discussion [here](https://github.com/coq/coq/pull/17022#discussion_r1057568601) makes me think that others also understand this convention. I think it is even slightly more general than morphisms, as there are also lemmas like `pred_succ` and so on. I think the rule is something along the lines of "if the composition of functions `f` after `g` is another well-known function or a very simple expression, the lemma `f_g` can be used to rewrite the composition. The name "push" comes from hint databases such as `push_length` in various developments, perhaps originally from JasonGross.

I do not feel strongly about the deprecation, but just leaving two names for the same lemma also seemed odd so I decided to include it. If a variant of this PR without the deprecation would have a smoother path forward, I'd be happy to do that instead.

File: theories/Lists/List.v [hunk 1]
```diff
@@ -1365,11 +1365,11 @@ Section Fold_Left_Recursor.
 
 End Fold_Left_Recursor.
 
-Lemma fold_left_length :
+Lemma fold_left_S :
   forall (A:Type)(l:list A), fold_left (fun x _ => S x) l 0 = length l.
```
Comment (JasonGross) [inline theories/Lists/List.v:1369]: Should this be `fold_left_S_O` and we reserve `fold_length_S` for
```coq
Lemma fold_left_S :
  forall (A:Type)(l:list A) n, fold_left (fun x _ => S x) l n = length l + n.
Proof.
  intros A l. induction l as [|? ? IH] using rev_ind; [reflexivity|]; intro n.
  now rewrite fold_left_app, app_length, IH, <- (Nat.add_comm 1).
Qed.
```

**Review by JasonGross — APPROVED** [review]
> I think it is even slightly more general than morphisms, as there are also lemmas like `pred_succ` and so on. I think the rule is something along the lines of "if the composition of functions `f` after `g` is another well-known function or a very simple expression, the lemma `f_g` can be used to rewrite the composition.

The [HoTT style guide](https://github.com/HoTT/Coq-HoTT/blob/master/STYLE.md#121-general-principles) says:
> ## 1.2. Naming Conventions ##
>
> ### 1.2.1. General principles ###
>
> In general, the name of a theorem (or definition, or instance, etc.) should begin with the property (or structure, or class, or record, etc.) being proven, and then state the object or construction it is being proven about.  For instance, `isequiv_idmap` proves `IsEquiv idmap`, and `equiv_compose` constructs an "Equiv" record by composing two given equivalences.
>
> In particular, a prefix of `path_` means a theorem that constructs a path in some type.  For instance, `path_sigma` is a theorem constructing paths in a sigma-type.
>
> More generally, where applicable the order of parts in a lemma name should roughly respect their placement in (the syntax tree of) the goal, from outermost to deepest.  For instance, `path_equiv` constructs a path in the type `Equiv f g`, while `isequiv_path_equiv` shows that `path_equiv` is an equivalence.

-----

> The name "push" comes from hint databases such as `push_length` in various developments, perhaps originally from JasonGross.

Yeah, I don't recall any particular source of inspiration for this naming, just that it seemed like what the dbs were doing was either "pushing" a function deeper down the syntax tree or "pulling" a function up to the root.

---

> I do not feel strongly about the deprecation, but just leaving two names for the same lemma also seemed odd so I decided to include it.

I vote for deprecating duplicate names.  If not deprecation, then, at the very least, duplicated names should be `only parsing` aliases, so it's clear which variant is preferred.

File: doc/changelog/11-standard-library/18564-rename-push-length.rst [hunk 2]
```diff
@@ -0,0 +1,27 @@
+- **Changed:** names of "push" lemmas for :g:`List.length` to follow the same
+  convention as push lemmas for other operations. For example, :g:`app_length`
+  became :g:`length_app`. The standard library was migrated using the following
+  script:
+
+[source,sh]
+----
```
Comment (JasonGross) [inline doc/changelog/11-standard-library/18564-rename-push-length.rst:7]: Something's wrong here
```
dune build --no-buffer @refman-html

Warning, treated as error:
unreleased.rst:118:Title underline too short.

[source,sh]
----
```

**Comment by JasonGross** [comment]
Tests fail with
```
dune build  @check
/builds/coq/coq
Whitespace errors!
In commits 8b0dd9a10a22fea52fbf72133638d1fccbae14b3
If you use emacs, you can prevent this kind of error from reoccurring by installing ws-butler and enabling ws-butler-convert-leading-tabs-or-spaces.
```

**Comment by andres-erbsen** [comment]
@coqbot run full ci

File: theories/Lists/List.v [hunk 3]
```diff
@@ -3479,36 +3479,36 @@ simpl; rewrite IHl1.
...
 
-Lemma flat_map_length A B (f: A -> list B) l:
+Lemma length_flat_map A B (f: A -> list B) l:
   length (flat_map f l) = list_sum (map (fun x => length (f x)) l).
 Proof.
-  rewrite flat_map_concat_map, concat_length, map_map. reflexivity.
+  rewrite flat_map_concat_map, length_concat, map_map. reflexivity.
 Qed.
 
 Corollary flat_map_constant_length A B c (f: A -> list B) l:
```
Comment (andres-erbsen) [inline theories/Lists/List.v:3496]: Should we rename this one too? `length_flat_maps_constlength`?

**Comment by JasonGross** [comment]
@coqbot ci minimize

**Comment by SkySkimmer** [comment]
What's there to minimize?

**Comment by JasonGross** [comment]
For ci-http at least, it's not immediately clear how
```
File "./JSON.v", line 60, characters 0-141:
Error:
The following term contains unresolved implicit arguments:
  (fun (T : Type) (f : json -> option T) (j : json) =>
   if j is JSON__Array l then sequence (map f l) else None)
More precisely: 
- ?Ap: Cannot infer the implicit parameter Ap of sequence whose type is
  "Applicative.Applicative option" (no type class instance found) in
  environment:
  T : Type
  f : json -> option T
  j : json
  l : list json
```
arises from this change.  For ci-bedrock2, I guess
```
File "/builds/coq/coq/_build_ci/fiat_crypto/rupicola/bedrock2/compiler/src/compiler/FlatToRiscvFunctions.v", line 1757, characters 41-42:
Error: No such bound variable n (possible names are: A, B, f and l).
```
is probably a result of one of the new names being preferred to a similar name defined in coqutil or something with a different argument order or implicit status.  Maybe running minimization on this is a bit wasteful.

**Comment by JasonGross** [comment]
@coqbot resume ci minimize ci-http [`tmp.v`](https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/7680133260/artifacts/1199822634)

**Comment by andres-erbsen** [comment]
I think the http issue is an unrelated change https://github.com/coq-community/coq-ext-lib/commit/d47e472d19b37ae9cfb312de48a33c4cc1442eb5#r137909737

**Comment by JasonGross** [comment]
> I think the http issue is an unrelated change [coq-community/coq-ext-lib@d47e472#r137909737](https://github.com/coq-community/coq-ext-lib/commit/d47e472d19b37ae9cfb312de48a33c4cc1442eb5#r137909737)

👍 I want to test again the new feature I'm trying to add to coqbot (support resuming ci minimization with a file at a url), though, please forgive the noise/spam.

@coqbot resume ci minimize ci-http [`tmp.v`](https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/7680133260/artifacts/1199822634)

**Comment by JasonGross** [comment]
@coqbot resume ci minimize ci-http [`tmp.v`](https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/7680133260/artifacts/1199822634)

**Comment by JasonGross** [comment]
@coqbot resume ci minimize ci-http [`tmp.v`](https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/7680133260/artifacts/1199822634)

**Comment by JasonGross** [comment]
@coqbot resume ci minimize ci-http [`tmp.v`](https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/7680133260/artifacts/1199822634)

**Comment by JasonGross** [comment]
@coqbot resume ci minimize ci-http [`tmp.v`](https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/7680133260/artifacts/1199822634)

**Comment by JasonGross** [comment]
@coqbot resume ci minimize ci-http [`tmp.v`](https://github.com/coq-community/run-coq-bug-minimizer/actions/runs/7680133260/artifacts/1199822634)

**Comment by SkySkimmer** [comment]
>👍 I want to test again the new feature I'm trying to add to coqbot (support resuming ci minimization with a file at a url), though, please forgive the noise/spam.

Can't you make a test PR? It's really quite spammy.

**Comment by proux01** [comment]
@andres-erbsen it would be nice to document those kind of conventions somewhere in the stdlib (in another PR)
Anyway, thanks for the cleanup, let's merge once CI is happy (although last failures were unrelated)

**Comment by proux01** [comment]
@andres-erbsen @JasonGross what about the bedrock2 failure?

**Comment by andres-erbsen** [comment]
It's a name collision.  
https://github.com/mit-plv/bedrock2/pull/400

**Comment by proux01** [comment]
Ok, I'll merge once https://github.com/mit-plv/bedrock2/pull/400 is merged (and CI confirms the fix).

**Comment by proux01** [comment]
@coqbot merge now

File: theories/Lists/List.v [hunk 4]
```diff
@@ -3577,10 +3577,10 @@ Global Hint Rewrite
   rev_involutive (* rev (rev l) = l *)
   rev_unit (* rev (l ++ a :: nil) = a :: rev l *)
   map_nth (* nth n (map f l) (f d) = f (nth n l d) *)
-  map_length (* length (map f l) = length l *)
-  seq_length (* length (seq start len) = len *)
-  app_length (* length (l ++ l') = length l + length l' *)
-  rev_length (* length (rev l) = length l *)
+  length_app (* length (map f l) = length l *)
+  length_seq (* length (seq start len) = len *)
+  length_app (* length (l ++ l') = length l + length l' *)
```
Comment (herbelin) [inline theories/Lists/List.v:3582]: Looks like a typo, the first occurrence of `length_app` should be `length_map` (cause of a failure in MetaCoq's file `EtaExpand.v`)!!

Comment (proux01) [reply theories/Lists/List.v:3582]: Indeed, sorry I missed that during my review (and CI didn't catch it as metacoq was broken at that time).
@andres-erbsen would you please submit a fix PR, I'll merge it right away.

Comment (herbelin) [reply theories/Lists/List.v:3582]: Fortunately (!) human beings are still today made of bones and flesh (though maybe not for so long now...).

Comment (proux01) [reply theories/Lists/List.v:3582]: Here it is @herbelin if you can merge it: https://github.com/coq/coq/pull/18606

**Comment by herbelin** [comment]
While adapting metacoq to the PR I saw that there is a lemma `firstn_length_le` in `List`. It might makes sense to rename it to `length_firstn_le`, consistently with the renaming of `firstn_length` into `length_firstn`.
